US05455253
9-(3-Bromophenyl)-3,4,5,6,7,8,9,10-octahydro-1(2H)-acridinone.
To a stirred 70° C. mixture of 9-(3-bromophenyl)-3,4,6,7,9,10-hexahydro-1,8(2H,5H)-acridinedione (5.0 g, 13.4), ethanol (120 mL) and pyridine (40 mL) was added sodium borohydride (7.5 g) in three portions over six hours. The solvent was removed; the resulting yellow solid washed well with water and air dried to provide the title compound (4.8 g). Recrystallization from ethanol/hexane returned analytically pure yellow solid, mp 258°-260° C.; NMR: 1.41-1.51 (m,3, CH2), 1.60-1.88 (m,5, CH2), 2.09-2.15 (m,4, CH2), 2.39-2.45 (m,2, CH2), 4.17 (s,1, CH), 7.16-7.21 (m,2, Ar), 7.26-7.29 (m,2, Ar), 8.44 (s,1, NH); (CI, CH4) MS: m/z=360(M+1). Analysis for C19H20BrNO: Calculated C, 63.69; H, 5.59; N, 3.91; Found: C, 63.73; H, 5.69; N, 3.94.

reactant | 9-(3-bromophenyl)-3,4,6,7,9,10-hexahydro-1,8(2H,5H)-acridinedione | 5.0 g | BrC=1C=C(C=CC1)C1C=2C(CCCC2NC=2CCCC(C12)=O)=O | C19H18BrNO2
reactant | ethanol | 120 mL | C(C)O | C2H6O
reactant | sodium borohydride | 7.5 g | [BH4-].[Na+]
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | 9-(3-Bromophenyl)-3,4,5,6,7,8,9,10-octahydro-1(2H)-acridinone | 4.8 g | BrC=1C=C(C=CC1)C1C=2CCCCC2NC=2CCCC(C12)=O | C19H20BrNO
